US07294636B2
A mixture of allyl 4-(bromoacetyl)piperidine-1-carboxylate (547 mg) and 2-(4-chlorophenyl)ethanethioamide (366 mg) in ethanol (15 ml) was refluxed for 5 hours. The reaction mixture was evaporated to dryness and the residue was purified by chromatography on silica eluting with methanol/dichloromethane (2:98) to give allyl 4-[2-(4-chlorobenzyl)-1,3-thiazol-4-yl]piperidine-1-carboxylate. Yield 698 mg. NMR (CDCl3): 1.65 (m, 2H), 2.25 (m, 2H), 2.95 (m, 2H), 3.2 (m, 1H), 4.3 (m, 2H), 4.55 (m, 4H), 5.3 (m, 2H), 6.0 (m, 1H), 6.95 (s, 1H), 7.35 (m, 4H).

reactant | allyl 4-(bromoacetyl)piperidine-1-carboxylate | 547 mg | BrCC(=O)C1CCN(CC1)C(=O)OCC=C | C11H16BrNO3
reactant | 2-(4-chlorophenyl)ethanethioamide | 366 mg | ClC1=CC=C(C=C1)CC(N)=S | C8H8ClNS
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | allyl 4-[2-(4-chlorobenzyl)-1,3-thiazol-4-yl]piperidine-1-carboxylate | ClC1=CC=C(CC=2SC=C(N2)C2CCN(CC2)C(=O)OCC=C)C=C1 | C19H21ClN2O2S
